### PR TITLE
[Merged by Bors] - feat: a few lemmas on continuous functions

### PR DESCRIPTION
**Pull request by sgouezel**
Topological prerequisites for Rademacher theorem in #7003.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 1]
```diff
@@ -861,6 +861,15 @@ theorem IsCompact.exists_bound_of_continuousOn' [TopologicalSpace α] {s : Set 
...
 #align is_compact.exists_bound_of_continuous_on IsCompact.exists_bound_of_continuousOn
 
+@[to_additive]
+theorem HasCompactMulSupport.exists_bound_of_continuous [TopologicalSpace α]
+    {f : α → E} (hf : HasCompactMulSupport f) (h'f : Continuous f) : ∃ C, ∀ x, ‖f x‖ ≤ C := by
+  rcases hf.exists_bound_of_continuousOn' h'f.continuousOn with ⟨C, hC⟩
+  refine ⟨max C 0, fun x ↦ ?_⟩
+  by_cases hx : x ∈ mulTSupport f
+  · exact (hC x hx).trans (le_max_left C 0)
+  · simp [image_eq_one_of_nmem_mulTSupport hx]
```
Comment (ADedecker) [inline Mathlib/Analysis/Normed/Group/Basic.lean:871]: I think it would be shorter to use [HasCompactMulSupport.isCompact_range](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Support.html#HasCompactMulSupport.isCompact_range), [IsCompact.bounded](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/MetricSpace/Basic.html#IsCompact.bounded), [Metric.Bounded.exists_norm_le](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Normed/Group/Basic.html#Metric.Bounded.exists_norm_le) and [Set.forall_range_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Image.html#Set.forall_range_iff), but I haven't tried so I could be wrong.

File: Mathlib/Topology/ContinuousOn.lean [hunk 2]
```diff
@@ -955,6 +955,13 @@ theorem ContinuousWithinAt.preimage_mem_nhdsWithin' {f : α → β} {x : α} {s
   h.tendsto_nhdsWithin (mapsTo_image _ _) ht
 #align continuous_within_at.preimage_mem_nhds_within' ContinuousWithinAt.preimage_mem_nhdsWithin'
 
+theorem ContinuousWithinAt.preimage_mem_nhdsWithin''
+    {f : α → β} {x : α} {y : β} {s t : Set β}
+    (h : ContinuousWithinAt f (f ⁻¹' s) x) (ht : t ∈ 𝓝[s] y) (hxy : y = f x) :
```
Comment (ADedecker) [inline Mathlib/Topology/ContinuousOn.lean:960]: Do you really want this extra `y` instead of just using `f x`?

File: Mathlib/Analysis/Normed/Group/Basic.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/Analysis/Normed/Group/Basic.lean:871]: Indeed! My first version was along these lines, but I missed `Metric.Bounded.exists_norm_le'`. With it, this is a two-liner. Thanks!

File: Mathlib/Topology/ContinuousOn.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/Topology/ContinuousOn.lean:960]: Yes. I started with the version without the `y`, and in all my applications I had first to rewrite `y` to put it exactly in the form of `f x` before applying the lemma. After 4 or 5 times, I decided it would be more efficient to change the lemma and to add a `y` there.

Comment (ADedecker) [reply Mathlib/Topology/ContinuousOn.lean:960]: Okay, I can convince myself that it makes sense since in this version of the lemma everything lives in the domain in some sense. So if it's useful let's keep it like that.

**Comment by ADedecker** [comment]
Thanks!

bors r+
